US05106970
In 10 ml of THF was dissolved 1.814 g (81.3 mmole) of succinic anhydride, and 7.04 ml (81.3 mmole) of morpholine was added dropwise thereto from a syringe at room temperature under a nitrogen atmosphere. After stirring the reaction mixture for 1 hour, the precipitated crystals were collected by filtration and washed with a 1:2 (by volume) mixture of ethyl acetate and hexane to obtain 14.3 g (percent yield: 94%) of crude crystals of 4-morpholino-4-oxobutyric acid.

reactant | succinic anhydride | 81.3 mmole, 1.814 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | morpholine | 81.3 mmole, 7.04 ml | N1CCOCC1 | C4H9NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-morpholino-4-oxobutyric acid | yield: 94% | O1CCN(CC1)C(CCC(=O)O)=O | C8H13NO4
